### PR TITLE
Erdős problem 41

### PR DESCRIPTION
**Pull request by zhenningdavidliu**
Pull request for issue 219 (https://github.com/google-deepmind/formal-conjectures/issues/219)

### CODE REVIEW

**Comment by zhenningdavidliu** [comment]
Sorry about the merge conflicts. I was trying to fix this, but for some reason I was not able to get the most up to date version (my fault entirely). For now, I am opening this PR to start the discussion regarding the formalisation of Erdos 41.

**Comment by Paul-Lez** [comment]
Hey @zhenningdavidliu, thanks for the PR! I force-pushed to your branch to clean up the git history and get rid of the merge conflict

File: FormalConjectures/ErdosProblems/41.lean [hunk 1]
```diff
@@ -0,0 +1,56 @@
...
+*Reference:* [erdosproblems.com/41](https://www.erdosproblems.com/41)
+-/
+
+open Classical
+
+def PairCondition (A : Set α) : Prop := ∀ᵉ (I : Finset α) (J : Finset α),
+    I.toSet ⊆ A ∧ J.toSet ⊆ A ∧ I.card = 2 ∧ J.card = 2 ∧
+    (∑ i ∈ I, i = ∑ j ∈ J, j) → I = J
+
+def TripleCondition (A : Set α) : Prop := ∀ᵉ (I : Finset α) (J : Finset α),
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/41.lean]: I think it would be good to have docstrings for these two!

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/41.lean]: It may also be worth just having one definition that handles the general case (distinct `n`-term sums)

Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/41.lean]: Great points, added these changes to the latest commit.

File: FormalConjectures/ErdosProblems/41.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+
+*Reference:* [erdosproblems.com/41](https://www.erdosproblems.com/41)
+-/
+
+open Classical
+
+/--
+For a given set `A`, the n-tuple sums `a₁ + ... + aₙ` are all distinct for  `a₁, ..., aₙ` in `A` (aside from the trivial coincidences).
+-/
+def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ᵉ (I : Finset α) (J : Finset α),
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]: I think you can use the regular universal quantifier here 
```suggestion
def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ (I : Finset α) (J : Finset α),
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+private noncomputable def Set.bdd (A : Set ℕ) (N : ℕ) : Finset ℕ :=
+    Finset.Icc 1 N |>.filter (· ∈ A)
+
+/--
+Let `A` ⊆ ℕ be an infinite set such that the triple sums `a + b + c` are all distinct for `a, b, c` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/3) = 0`?
+-/
+@[category research open, AMS 11]
+theorem erdos_41 (A : Set ℕ) (h_triple : NtupleCondition A 3) (h_infinite : A.Infinite) : Filter.atTop.liminf (fun N => (A.bdd N).card / (N : ℝ)^(1/3)) = 0
+    := by
+sorry
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]: nit: some styling
```suggestion
@[category research open, AMS 11]
theorem erdos_41 (A : Set ℕ) (h_triple : NtupleCondition A 3) (h_infinite : A.Infinite) : 
    Filter.atTop.liminf (fun N => (A.bdd N).card / (N : ℝ)^(1/3)) = 0 := by
  sorry
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+
+/--
+Erdős proved the following pairwise version.
+Let `A` ⊆ ℕ be an infinite set such that the pairwise sums `a + b` are all distinct for `a, b` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
+-/
+@[category research solved, AMS 11]
+theorem erdos_41_i (A : Set ℕ) (h_pair : NtupleCondition A 2) (h_infinite : A.Infinite) : Filter.atTop.liminf (fun N => (A.bdd N).card / (N : ℝ).sqrt) = 0
+    := by
+sorry
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]: style conventions are to indent four spaces for subsequent lines in the statement, and indent 2 spaces for the proof
```suggestion
theorem erdos_41_i (A : Set ℕ) (h_pair : NtupleCondition A 2) (h_infinite : A.Infinite) : 
    Filter.atTop.liminf (fun N => (A.bdd N).card / (N : ℝ).sqrt) = 0 := by
  sorry
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+Let `A` ⊆ ℕ be an infinite set such that the triple sums `a + b + c` are all distinct for `a, b, c` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/3) = 0`?
+-/
+@[category research open, AMS 11]
+theorem erdos_41 (A : Set ℕ) (h_triple : NtupleCondition A 3) (h_infinite : A.Infinite) : Filter.atTop.liminf (fun N => (A.bdd N).card / (N : ℝ)^(1/3)) = 0
+    := by
+sorry
+
+/--
+Erdős proved the following pairwise version.
+Let `A` ⊆ ℕ be an infinite set such that the pairwise sums `a + b` are all distinct for `a, b` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]: fixing some backticks in the docstring
```suggestion
Let `A ⊆ ℕ` be an infinite set such that the pairwise sums `a + b` are all distinct for `a, b` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ (I : Finset α) (J : Finset α),
+    I.toSet ⊆ A ∧ J.toSet ⊆ A ∧ I.card = n ∧ J.card = n ∧
+    (∑ i ∈ I, i = ∑ j ∈ J, j) → I = J
+
+/-- Given a set of natural numbers `A`, `Set.bdd A N` is the set `{1,...,N} ∩ A`-/
+private noncomputable def Set.bdd (A : Set ℕ) (N : ℕ) : Finset ℕ :=
+    Finset.Icc 1 N |>.filter (· ∈ A)
+
+/--
+Let `A` ⊆ ℕ be an infinite set such that the triple sums `a + b + c` are all distinct for `a, b, c` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/3) = 0`?
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]:
```suggestion
Let `A ⊆ ℕ` be an infinite set such that the triple sums `a + b + c` are all distinct for `a, b, c` in `A` (aside from the trivial coincidences). Is it true that `lim inf n → ∞ |A ∩ {1, …, N}| / N^(1/3) = 0`?
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
...
+-/
+
+open Classical
+
+/--
+For a given set `A`, the n-tuple sums `a₁ + ... + aₙ` are all distinct for  `a₁, ..., aₙ` in `A` (aside from the trivial coincidences).
+-/
+def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ (I : Finset α) (J : Finset α),
+    I.toSet ⊆ A ∧ J.toSet ⊆ A ∧ I.card = n ∧ J.card = n ∧
+    (∑ i ∈ I, i = ∑ j ∈ J, j) → I = J
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean]: `def`s are indented 2 spaces
```suggestion
def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ (I : Finset α) (J : Finset α),
  I.toSet ⊆ A ∧ J.toSet ⊆ A ∧ I.card = n ∧ J.card = n ∧
  (∑ i ∈ I, i = ∑ j ∈ J, j) → I = J
```

File: FormalConjectures/ErdosProblems/41.lean [hunk 8]
```diff
@@ -0,0 +1,55 @@
...
+
+*Reference:* [erdosproblems.com/41](https://www.erdosproblems.com/41)
+-/
+
+open Classical
+
+/--
+For a given set `A`, the n-tuple sums `a₁ + ... + aₙ` are all distinct for  `a₁, ..., aₙ` in `A` (aside from the trivial coincidences).
+-/
+def NtupleCondition (A : Set α) (n : ℕ) : Prop := ∀ (I : Finset α) (J : Finset α),
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/41.lean:32]: Up to you which you prefer as they are the same under the hood, but this can be expressed as 
```
Set.InjOn (fun I ↦ ∑ i ∈ I, i) {I : Finset α | I.toSet ⊆ A ∧ I.card = n}
```

**Comment by smmercuri** [comment]
LGTM outside of minor styling comments!

File: FormalConjectures/ErdosProblems/41.lean (hunk 8 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/41.lean:32]: Thanks for the suggestion! I am a bit reluctant to use your proposed version as I am not fully sure I understand it yet. I would stick to the current version for now, but I will try to adapt your suggestion in future formalisations.

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/41.lean:32]: Sure no problem, there is value in having it spelt explicitly as it is. If you're curious and would like to see what `Set.InjOn` is doing anyway, you can try looking at the goal state in the example below after the `simp`. You'll notice how similar it is to your original `def`! Basically we're using injectivity of the function which sends a finite set to its sum as a way of asserting that equivalence of sums forces equivalences of finite sets.

```
def NtupleCondition (A : Set α) (n : ℕ) : Prop := 
    Set.InjOn (fun I ↦ ∑ i ∈ I, i) {I : Finset α | I.toSet ⊆ A ∧ I.card = n}

example (A : Set α) (n : ℕ) : NtupleCondition A n ↔ sorry := by 
  simp [NtupleCondition, Set.InjOn]
```

**Review by smmercuri — APPROVED** [review]

File: FormalConjectures/ErdosProblems/41.lean (hunk 8 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/41.lean:32]: Oh I see! That is neat, thanks for explaining!
